US06452014B1
To a solution of 2-(1-methylpyrrol-2-yl)-5,6-dichlorobenzimidazole (65 mg, 0.24 mmol) in dimethylformamide (2 mL) was added phoshorus oxychloride (0.067 mL, 0.72 mmol), and the mixture was stirred at room temperature for 24 h. Water and aqueous sodium hydroxide (1.0 mol/L) were added, and the mixture was extracted with ethyl acetate. The organic layer was washed with water and brine and dried on anhydrous sodium sulfate. The solvent was removed under reduced pressure to afford 2-(2-formyl-1-methylpyrrol-5-yl)-5,6-dichlorobenzimidazole (50 mg, 71%).

reactant | 2-(1-methylpyrrol-2-yl)-5,6-dichlorobenzimidazole | 0.24 mmol, 65 mg | CN1C(=CC=C1)C=1NC2=C(N1)C=C(C(=C2)Cl)Cl | C12H9Cl2N3
reactant | oxychloride | 0.72 mmol, 0.067 mL | O(Cl)Cl | Cl2O
reactant | Water | O | H2O
reactant | sodium hydroxide | 1.0 mol/L | [OH-].[Na+]
reactant | dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
product | 2-(2-formyl-1-methylpyrrol-5-yl)-5,6-dichlorobenzimidazole | 50 mg, 71% | C(=O)C=1N(C(=CC1)C=1NC2=C(N1)C=C(C(=C2)Cl)Cl)C | C13H9Cl2N3O
